US07449467B2
2-Piperazin-1-yl-4-(trifluoromethyl)pyrimidine
A solution of 2-chloro-4-(trifluoromethyl)pyrimidine (2.0 g, 11 mmol), piperazine (2.8 g, 33 mmol) and triethylamine (3.0 mL, 22 mmol) in DMF (10 mL) was stirred at 100° C. in a sealed tube overnight. After removal of most of the solvent, the residue was purified by column chromatography on silica gel (EtOAc to EtOAc/MeOH/NEt3 9/1/0.5) to give 1.48 g (56%) of desired product. MS calculated for C9H11F3N4: (M+H) 233; found 233.1.

reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 11 mmol, 2.0 g | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | piperazine | 33 mmol, 2.8 g | N1CCNCC1 | C4H10N2
reactant | triethylamine | 22 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Piperazin-1-yl-4-(trifluoromethyl)pyrimidine | 1.48 g, 56% | N1(CCNCC1)C1=NC=CC(=N1)C(F)(F)F | C9H11F3N4
